US06169087A
To a mixture of sodium ethoxide (100 ml; prepared from 1.38 g sodium and 100 ml ethanol) and 2-hydroxy-1-acetonaphthone (11.29 g, 0.06 mol) was added ethyl cyanoacetate (11.1 ml, 0.1 mol). The resulting mixture was stirred at reflux temperature for 2 h. The reaction mixture was cooled in a ice bath and the precipitate was filtered off and washed with water (20 ml) and cold ethanol (3×20 ml), dried in vacuo at 50° C. for 18 h which afforded (9 g) of crude product. The crude product (9 g) was recrystallised from a mixture of acetone (1 l) and water (25 ml) affording 5.33 g (38%) of 1-methyl-3-oxo-3H-benzo[f]chromene-2-carbonitrile as a solid.

reactant | 2-hydroxy-1-acetonaphthone | 0.06 mol, 11.29 g | CC(=O)C1=C(C=CC2=CC=CC=C21)O | C12H10O2
reactant | ethyl cyanoacetate | 0.1 mol, 11.1 ml | C(#N)CC(=O)OCC | C5H7NO2
solvent | sodium ethoxide | 100 ml, 1.38 g | [O-]CC.[Na+]
product | 1-methyl-3-oxo-3H-benzo[f]chromene-2-carbonitrile | 5.33 g, 38% | CC1=C(C(OC=2C=CC3=C(C12)C=CC=C3)=O)C#N | C15H9NO2
